US09217005B2
In a 50-ml autoclave, 3.3 mg (0.005 mmol, S/C=1000) of RuCl((R,R)—O-HT-Tsdpen) was placed, and the autoclave was purged with nitrogen. Subsequently, 0.73 g (5.0 mmol) of α-tetralone and 4.4 ml of methanol were added thereto, then hydrogen gas was charged to 3.0 MPa. Subsequently, the mixture was stirred for 20 hours at 60° C. The reaction liquid was subjected to a GC analysis, and as a result, (R)-1-tetralol was obtained at a conversion rate of 52.0% with an optical purity of 99.3% ee.

reactant | α-tetralone | 5.0 mmol, 0.73 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 4.4 ml | CO | CH4O
product | (R)-1-tetralol | C1C[C@H](C2=CC=CC=C2C1)O | C10H12O
